US06514964B1
Step A: 2-(N-(3-aminoprop-1-yl)amino)pyridine
To a stirring solution of 2-fluoropyridine in pyridine (0.5 M) was added 1,3-propanediamine (5 eq), and the solution was refluxed overnight. The solution was then concentrated in vacuo and the residue was partitioned between ethyl acetate and 10% sodium carbonate. The phases were separated, and the organic phase was washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was chromatographed (silica; 10:1:1 EtOH/NH4OH/H2O) to afford a viscous pale yellow oil. EI-MS m/z 152 (M+H)+

reactant | 2-fluoropyridine | FC1=NC=CC=C1 | C5H4FN
reactant | 1,3-propanediamine | 5 eq | C(CCN)N | C3H10N2
solvent | pyridine | 0.5 M | N1=CC=CC=C1 | C5H5N
product | 2-(N-(3-aminoprop-1-yl)amino)pyridine | NCCCNC1=NC=CC=C1 | C8H13N3
